US09428511B2
3M methylmagnesium bromide in ether (99 ml, 296 mmol) was added dropwise over 1 hour to a suspension of benzyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate (26 g, 119 mmol) and copper bromide-dimethyl sulfide complex (24.38 g, 119 mmol) in anhydrous THF (250 ml) at −40° C. under a nitrogen atmosphere. The reaction was allowed to stir at this temperature for an additional 1 hour before cautiously quenching of the reaction using 125 mL sat. ammonium chloride. The reaction was then allowed to warm to rt and diluted with water (125 mL), then extracted with ethyl acetate (3×150 mL). Ethyl acetate phases were combined, washed with brine, then dried with Na2SO4. After concentration, the crude material was purified by flash chromatography. (+/−)-Benzyl 3-hydroxy-4-methylpyrrolidine-1-carboxylate (24.5 g, 104 mmol, 88% yield) was obtained as light yellow oil. 1H NMR (400 MHz, chloroform-d) δ ppm 7.28-7.46 (5H, m), 5.14 (2H, s), 3.93-4.05 (1H, m), 3.63-3.78 (2H, m), 3.25-3.43 (1H, m), 3.12 (1H, ddd, J=13.26, 10. This material was resolved using the following chiral SFC conditions: column: CHIRALPAK® AD-H 5×25 cm, 5 μm, Column Temp. 40° C., Flow rate: 290 mL/min, Mobile Phase: CO2/MeOH=82/18, injection volume: 2.5 mL (Conc. 118 mg/mL), detector wavelength: 212 nm. The isolated isomers were named “Pk1” and “Pk2” in the elution order. Fractions containing Pk2 were concentrated to afford 10 g of (3R,4S)-benzyl 3-hydroxy-4-methylpyrrolidine-1-carboxylate as a yellow oil. 84, 5.17 Hz), 2.06-2.26 (1H, m), 1.90 (1H, d, J=8.36 Hz), 1.03 (3H, dd, J=6.71, 5.39 Hz); LCMS (CHROMOLITH® RP-18e 2.0×50 mm, 0.8 mL/min, Solvent A: 10% MeOH/water with 0.1% TFA, Solvent B: 90% MeOH/water with 0.1% TFA, gradient with 0-100% B over 4 minutes) retention time: 2.56 min; MS(ES+) m/z: 236.0 (M+H+); HPLC retention time: 3.028 min (analytical HPLC Method H). Chiral purity: 99.9% ee (chiral HPLC conditions: column: CHIRALPAK® AD-H (25×0.46 cm, 5 μm), 30% MeOH in CO2, 3 mL/min, 40° C., 200-400 nm, 100 bars).

reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | ether | 296 mmol, 99 ml | CCOCC | C4H10O
reactant | benzyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate | 119 mmol, 26 g | C12CN(CC2O1)C(=O)OCC1=CC=CC=C1 | C12H13NO3
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | (+/−)-Benzyl 3-hydroxy-4-methylpyrrolidine-1-carboxylate | 104 mmol, 24.5 g, 88% yield | OC1CN(CC1C)C(=O)OCC1=CC=CC=C1 | C13H17NO3
